US09023849B2
5-Chloro-3-(2,3,6-trifluorobenzyl)-1H-indazole-1-carboximidamide
4.60 g (10.96 mmol) of 2-[1-(2-bromo-5-chlorophenyl)-2-(2,3,6-trifluorophenyl)ethylidene]hydrazinecarboximidamide (the synthesis of this compound is described in WO 2010/065275, Example 3, Step B, page 36-37) and 2.09 g (10.96 mmol) of copper(I) iodide were initially charged in NMP (150 ml) in a 1 l round-bottom flask, and then stirred in an oil bath preheated to 170° C. for 14 minutes. The reaction mixture was subsequently cooled in an ice bath and admixed with an ice/water mixture (400 ml), and concentrated aqueous ammonia solution (200 ml) was added. After stirring for 15 minutes, the solids were filtered off with suction. The residue was dissolved in ethyl acetate, washed twice with water and dried, and the solvent was removed on a rotary evaporator. 3.00 g (39% of theory, 49% purity) of the title compound were obtained. The crude product was reacted further without purification.

reactant | 2-[1-(2-bromo-5-chlorophenyl)-2-(2,3,6-trifluorophenyl)ethylidene]hydrazinecarboximidamide | 10.96 mmol, 4.60 g | BrC1=C(C=C(C=C1)Cl)C(CC1=C(C(=CC=C1F)F)F)=NNC(N)=N | C15H11BrClF3N4
reactant | ammonia | 200 ml | N | H3N
solvent | NMP | 150 ml | CN1CCCC1=O | C5H9NO
catalyst | copper(I) iodide | 10.96 mmol, 2.09 g | [Cu]I
product | 5-Chloro-3-(2,3,6-trifluorobenzyl)-1H-indazole-1-carboximidamide | ClC=1C=C2C(=NN(C2=CC1)C(N)=N)CC1=C(C(=CC=C1F)F)F | C15H10ClF3N4
